US08748446B2
1.12 g (2.8 mmol) of 4,5,6-tribromo-2,3,3-trimethyl-3H-indole and 2 mL (32 mmol) of iodomethane were heated in a sealed tube at 30-35° C. for 24 hours. The formed precipitate was filtered, washed with small amounts of benzene and ether to yield 700 mg (47%) of 4,5,6-tribromo-1,2,3,3-tetramethyl-3H-indolium iodide. 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 8.50 (1H, s, arom.), 3.99 (3H, s, NCH3), 2.77 (3H, s, CH3), 1.60 (6H, s, C(CH3)2).

reactant | 4,5,6-tribromo-2,3,3-trimethyl-3H-indole | 2.8 mmol, 1.12 g | BrC1=C2C(C(=NC2=CC(=C1Br)Br)C)(C)C | C11H10Br3N
reactant | iodomethane | 32 mmol, 2 mL | IC | CH3I
product | 4,5,6-tribromo-1,2,3,3-tetramethyl-3H-indolium iodide | 700 mg, 47% | [I-].BrC1=C2C(C(=[N+](C2=CC(=C1Br)Br)C)C)(C)C | InChI=1S/C12H13Br3N.HI/c1-6-12(2,3)9-8(16(6)4)5-7(13)10(14)11(9)15;/h5H,1-4H3;1H/q+1;/p-1
